US06329381B1
6-Amino-9-benzyl-2-[(1,3-dioxolan-2-yl)-methyl]thio-8-hydroxypurine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (200 mg, 0.73 mmol) was suspended in dimethylformamide (80 ml). To the suspension were added potassium carbonate (150 mg, 1.1 mmol) and 2-bromomethyl-1,3-dioxolane (0.11 ml, 1.1 mmol) in order. The mixture was stirred at room temperature for 3 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (3% methanol/chloroform) to give the subject compound (73 mg, yield 28%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.73 mmol, 200 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-1,3-dioxolane | 1.1 mmol, 0.11 ml | BrCC1OCCO1 | C4H7BrO2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-2-[(1,3-dioxolan-2-yl)-methyl]thio-8-hydroxypurine | 73 mg, yield 28% | NC1=C2N=C(N(C2=NC(=N1)SCC1OCCO1)CC1=CC=CC=C1)O | C16H17N5O3S
